US07906654B2
(+) and (−) 2-(7-chloro-6-fluoro-1H-benzimidazol-1-yl)-N-{1-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]ethyl}acetamide
A mixture of (7-chloro-6-fluoro-1H-benzimidazol-1-yl)acetic acid (210 mg, 0.921 mmol) prepared according to scheme 12, 2-{4-[1-aminoethyl]-2-fluorophenyl}-2-methylpropanenitrile (190 mg 0.921 mmol)) prepared according to scheme 7 and Et3N (280 mg, 2.76 mmol, 0.39 mL) is stirred in MeCN (10.0 mL). HATU (350 mg, 0.921 mmol) is added, and after 2 hours of stirring, the mixture is diluted with 1N NaOH (40.0 mL) and then extracted 4 times with EtOAc (4×40.0 mL). The organic phases are combined and dried over MgSO4. The mixture is filtered and concentrated. The product is purified by a Gilson prep pump, flow rate: 30 ml/min, column: Synergi Polar (4 u) 21.2×50 mm, mobile phase: A=water (0.1% TFA), B=MeCN (206 mg, 54%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.38 (d, J=6.84 Hz, 3H) 1.71 (s, 6H) 4.85-5.00 (m, J=7.13, 7.13 Hz, 1H) 5.21 (s, 2H) 7.15-7.31 (m, 3H) 7.42 (t, J=8.30 Hz, 1H) 7.63 (dd, J=8.89, 4.39 Hz, 1H) 8.21 (s, 1H) 8.84 (d, J=7.81 Hz, 1H). The enantiomers are separated on a chiral AD column, eluting with 30% EtOH (0.1% DIEA) and hexanes 70% (0.1% DIEA), MS [M+H], calcd: 417.1, found: 417.3 [α]D=+154 (c=13, MeOH) and [α]D=−155 (c=15, MeOH).

reactant | (7-chloro-6-fluoro-1H-benzimidazol-1-yl)acetic acid | 0.921 mmol, 210 mg | ClC1=C(C=CC2=C1N(C=N2)CC(=O)O)F | C9H6ClFN2O2
reactant | 2-{4-[1-aminoethyl]-2-fluorophenyl}-2-methylpropanenitrile | 0.921 mmol, 190 mg | NC(C)C1=CC(=C(C=C1)C(C#N)(C)C)F | C12H15FN2
reactant | Et3N | 2.76 mmol, 0.39 mL, 280 mg | CCN(CC)CC | C6H15N
reactant | HATU | 0.921 mmol, 350 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | MeCN | 10.0 mL | CC#N | C2H3N
solvent | NaOH | 1N, 40.0 mL | [OH-].[Na+]
product | (−) 2-(7-chloro-6-fluoro-1H-benzimidazol-1-yl)-N-{1-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]ethyl}acetamide | ClC1=C(C=CC2=C1N(C=N2)CC(=O)NC(C)C2=CC(=C(C=C2)C(C)(C)C#N)F)F | C21H19ClF2N4O
